US05569768
4-Acetamino-2-cyanobiphenyl
2-Cyano-4-nitrobiphenyl (0.067 moles, 15.0 g.) was dissolved in 100 ml ethyl acetate/100 ml ethanol and hydrogenated at 40 psi over 3.0 g of 10% palladium on carbon. The catalyst was removed by filtering though celite. The solvents were removed in vacuo. The residue was dissolved in 175 ml of methylene chloride. Acetic anhydride (15 ml) was added. The reaction was stirred at room temperature for 30 minutes and poured over ice. The organic layer was dried, concentrated, and then purified by HPLC over silica gel eluted with a gradient of 0-10% ethyl acetate in chloroform. (MS)

reactant | 2-Cyano-4-nitrobiphenyl | 0.067 moles, 15.0 g | C(#N)C1=C(C=CC(=C1)[N+](=O)[O-])C1=CC=CC=C1 | C13H8N2O2
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 3.0 g | [Pd] | Pd
product | 4-Acetamino-2-cyanobiphenyl | N(C(=O)C)C1=CC(=C(C=C1)C1=CC=CC=C1)C#N | C15H12N2O
